### PR TITLE
[Merged by Bors] - chore: cleanup of adaptation notes

### PR DESCRIPTION
**Pull request by kim-em**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean [hunk 1]
```diff
@@ -147,17 +147,7 @@ instance : v.IsNontrivial := by
     intro y x
     specialize h1 x
     aesop
-  #adaptation_note
-  /-- Until nightly-2026-01-07, this was:
-  ```
   aesop (add safe forward [generator_lt_one, generator_zpowers_eq_valueGroup])
```
Comment (grunweg) [inline Mathlib/RingTheory/Valuation/Discrete/Basic.lean:150]: You did check the timings here, right? If so, LGTM!

File: Mathlib/Topology/Sheaves/Skyscraper.lean [hunk 2]
```diff
@@ -232,9 +232,7 @@ theorem skyscraperPresheaf_isSheaf : (skyscraperPresheaf p₀ A).IsSheaf := by
           dsimp [skyscraperPresheaf]
           rw [if_neg]
           · exact terminalIsTerminal
-          · #adaptation_note /-- 2024-03-24
-            Previously the universe annotation was not needed here. -/
```
Comment (grunweg) [inline Mathlib/Topology/Sheaves/Skyscraper.lean:236]: Can you say a word about this change?

**Review by grunweg — COMMENTED** [review]
Thanks for doing this! Just two small questions.
bors d+

File: Mathlib/RingTheory/Valuation/Discrete/Basic.lean (hunk 1 above)
Comment (kim-em) [reply Mathlib/RingTheory/Valuation/Discrete/Basic.lean:150]: I didn't actually time, but there was no perceptible lag.

File: Mathlib/Topology/Sheaves/Skyscraper.lean (hunk 2 above)
Comment (kim-em) [reply Mathlib/Topology/Sheaves/Skyscraper.lean:236]: I'll revert this one for now.

File: Mathlib/Analysis/Real/Hyperreal.lean [hunk 3]
```diff
@@ -39,12 +39,10 @@ def Hyperreal : Type :=
 
 noncomputable section
 
-#adaptation_note
```
Comment (JovanGerb) [inline Mathlib/Analysis/Real/Hyperreal.lean:42]: You can just move the `noncomputable section` a bit upwards to fix this.

File: Mathlib/GroupTheory/Coxeter/Inversion.lean [hunk 4]
```diff
@@ -424,12 +424,6 @@ theorem IsReduced.nodup_rightInvSeq {ω : List B} (rω : cs.IsReduced ω) : List
   set! t := (ris ω).getD j 1 with h₁
   set! t' := (ris (ω.eraseIdx j)).getD (j' - 1) 1 with h₂
   have h₃ : t' = (ris ω).getD j' 1 := by
-    #adaptation_note
-    /--
-    This was previously `grind [cs.getD_rightInvSeq, drop_of_length_le, drop_drop]`,
-    which no longer works after changes to `grind` annotation lemmas in
```
Comment (JovanGerb) [inline Mathlib/GroupTheory/Coxeter/Inversion.lean:430]: Is this a wontfix?

**Review by JovanGerb — COMMENTED** [review]
(My review comment from the previous review is still unaddressed)

File: Mathlib/GroupTheory/Coxeter/Inversion.lean (hunk 4 above)
Comment (kim-em) [reply Mathlib/GroupTheory/Coxeter/Inversion.lean:430]: Yes, it's deciding to remove annotations, not a change in behaviour in grind.

**Comment by kim-em** [comment]
bors merge
